LED4 worst-case constant forward voltage; selected NCD0805R1 and 470R
Vcc vcc 0 5.2
R192 vcc led 474.7
Vled led 0 2.6
.tran 1u 10u
.control
run
let current=i(Vled)
let rp=(v(vcc)-v(led))*current
meas tran led_current AVG current
meas tran resistor_power AVG rp
.endc
.end
