M7 flasher clamp, 30 V rail, hot #89 lamp 18 ohms, wiring inductance sensitivity
Vrail rail 0 30
Rlamp rail load 18
Lwire load drain 10u
Vgate ctl 0 PULSE(0 5 100u 100n 100n 1m 100m)
Sdriver drain 0 ctl 0 DRIVER
.model DRIVER SW(Ron=.02 Roff=1e10 Vt=2.5 Vh=.1)
Vmeasure drain da 0
Dfly da rail M7FIT
.model M7FIT D(Is=5e-9 n=1.8 Rs=.08 Cjo=15p Tt=0.1u Bv=1000 Ibv=5u)
.temp 125
.save v(drain) v(rail) i(Vmeasure) @dfly[capcur]
.options method=gear reltol=.001
.tran .1u 4m
.control
run
let carrier=i(Vmeasure)-@dfly[capcur]
let forward=(abs(carrier)+carrier)/2
let terminal=(abs(i(Vmeasure))+i(Vmeasure))/2
let reverse=v(rail)-v(drain)
meas tran carrier_average AVG forward
meas tran terminal_average AVG terminal
meas tran clamp_peak MAX v(drain)
meas tran reverse_peak MAX reverse
.endc
.end
